US05478820
(2S,4S)-4-Acetylthio-1-(4-nitrobenzyloxycarbonyl)-2-carboxypyrrolidine (0.75 g) was converted to the acid chloride and reacted with 3-allyloxycarbonyl-5-aminobenzamide (0.45 g) by a similar method to that described in example 12. The crude product was subjected to chromatography on silica gel, eluting with EtOAc and giving 4-acetylthio-1-(4-nitrobenzyloxycarbonyl)-2-(3-allyloxycarbonyl-5-carbamoylphenylcarbamoyl)pyrrolidine (0.58 g). Nmr (DMSO-d6): δ1.92-2.06 (m, 1H); 2.3 (s, 3H); 2.79-2.83 (m, 1H); 3.38 (dd, 1H); 3.97-4.12 (m, 2H); 4.49 (dd, 1H); 4.83 (dt, 2H); 5.19 (dd, 2H); 5.25-5.43 (m, 2H); 5.97-6.11 (m, 1H); 7.31 (broad s, 2H); 7.54 (d, 2H); 8.04 (d, 2H); 8.12 (t, 1H); 8.26 (t, 1H); 8.31 (t, 1H); 10.0 (s, 1H).

reactant | (2S,4S)-4-Acetylthio-1-(4-nitrobenzyloxycarbonyl)-2-carboxypyrrolidine | 0.75 g | C(C)(=O)S[C@H]1C[C@H](N(C1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C(=O)O | C15H16N2O7S
reactant | 3-allyloxycarbonyl-5-aminobenzamide | 0.45 g | C(C=C)OC(=O)C=1C=C(C(=O)N)C=C(C1)N | C11H12N2O3
product | 4-acetylthio-1-(4-nitrobenzyloxycarbonyl)-2-(3-allyloxycarbonyl-5-carbamoylphenylcarbamoyl)pyrrolidine | 0.58 g | C(C)(=O)SC1CC(N(C1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C(NC1=CC(=CC(=C1)C(N)=O)C(=O)OCC=C)=O | C26H26N4O9S
